US06544985B2
8-Methyl-4-[3-(3-methyl-isoxazol-5-yl)-phenyl]-7-pyrrolidin-1-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (4-methyl-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester (Example M111) (0.33 g, 0.64 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (223 mg, 87%).

reactant | (4-methyl-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester | 0.64 mmol, 0.33 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C29H34N4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Methyl-4-[3-(3-methyl-isoxazol-5-yl)-phenyl]-7-pyrrolidin-1-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NO2)C)=O)C1)N1CCCC1 | C24H24N4O2
